US04845257
In 20 ml of acetonitrile were dissolved 795 mg of methyl 2-methoxyimino-3-oxobutyrate and 2.25 g of sodium iodide, followed by addition of 2.1 ml of triethylamine. Then, a solution of 1.13 g tert-butyldimethylchlorosilane in 10 ml acetonitrile was added dropwise and the mixture was refluxed for 6.5 hours. The reaction mixture was concentrated under reduced pressure and 20 ml of hexane and 20 ml of water were added to dissolve the residue. The organic layer was separated, washed with 20 ml of 5% aqueous sodium hydrogen carbonate solution, 20 ml of 1N hydrochloric acid and 20 ml of water in the order mentioned, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column and elution was carried out with 100 ml of hexane-ether (5:1, v/v). The eluate was concentrated under reduced pressure to give methyl 3-tert-butyldimethylsilyloxy-2-methoxyimino-3-butenoate as oil.

reactant | methyl 2-methoxyimino-3-oxobutyrate | 795 mg | CON=C(C(=O)OC)C(C)=O | C6H9NO4
reactant | sodium iodide | 2.25 g | [I-].[Na+]
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylchlorosilane | 1.13 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 3-tert-butyldimethylsilyloxy-2-methoxyimino-3-butenoate | [Si](C)(C)(C(C)(C)C)OC(C(C(=O)OC)=NOC)=C | C12H23NO4Si
